US04916148
A mixture of 8-(α,4-dichlorobenzyl)-1,1-dimethyl-2(1H)-naphtho[2,1-b]furanone, 1,2,4-triazole (0.3 g), potassium carbonate (0.3 g) and acetonitrile (5 ml) was heated under reflux for 18 h. The mixture was treated with water (20 ml) and extracted with ethyl acetate. The ethyl acetate extract was dried and then evaporated to dryness, and the residue was purified by flash chromatography eluting with methanol:chloroform, 1:99 v/v, to give 8-[4-chloro-α-(1H-1,2,4-triazol-1-yl)benzyl]-2(1H)-naphtho[2,1-b]furanone. Nmr in deuteriochloroform: δ8.12(2H,s); 7.94(1H,d); 7.36-7.46(4H,m); 7.15-7.25(3H,m); 6.92(1H,s); 1.62(3H,s); 1.60(3H,s).

reactant | 8-(α,4-dichlorobenzyl)-1,1-dimethyl-2(1H)-naphtho[2,1-b]furanone | ClC(C1=CC=C(C=C1)Cl)C1=CC=C2C=CC=3OC(C(C3C2=C1)(C)C)=O | C21H16Cl2O2
reactant | 1,2,4-triazole | 0.3 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 0.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | water | 20 ml | O | H2O
product | 8-[4-chloro-α-(1H-1,2,4-triazol-1-yl)benzyl]-2(1H)-naphtho[2,1-b]furanone | ClC1=CC=C(C(N2N=CN=C2)C2=CC=C3C=CC=4OC(CC4C3=C2)=O)C=C1 | C21H14ClN3O2
